US06610717B2
2) Synthesis of 3-benzyl 5-(2-cyanoethyl) 4-(3-chlorophenyl)-2-(2-cyclohexylethoxymethyl)-6-methyl-1,4-dihydropyridine-3,5-dicarboxylate
0.50 g (1.57 mmol) of benzyl 4-(2-cyclohexylethoxy)acetoacetate, 0.22 g (1.57 mmol) of 3-chlorobenzaldehyde and 0.24 g (1.57 mmol) of 2-cyanoethyl 3-aminocrotonate were stirred in 8 ml of 2-propanol under heating at 70° C. for 22 hours. After 2-propanol was evaporated under reduced pressure, the residue was purified by the silica gel chromatography (hexane/ethyl acetate=1/2) to obtain the title compound.

reactant | benzyl 4-(2-cyclohexylethoxy)acetoacetate | 1.57 mmol, 0.50 g | C1(CCCCC1)CCOCC(CC(=O)OCC1=CC=CC=C1)=O | C19H26O4
reactant | 3-chlorobenzaldehyde | 1.57 mmol, 0.22 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | 2-cyanoethyl 3-aminocrotonate | 1.57 mmol, 0.24 g | N\C(=C/C(=O)OCCC#N)\C | C7H10N2O2
solvent | 2-propanol | 8 ml | CC(C)O | C3H8O
product | 3-benzyl 5-(2-cyanoethyl) 4-(3-chlorophenyl)-2-(2-cyclohexylethoxymethyl)-6-methyl-1,4-dihydropyridine-3,5-dicarboxylate | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OCCC#N)C)COCCC1CCCCC1)C(=O)OCC1=CC=CC=C1 | C33H37ClN2O5
